US08685986B2
Reaction and post-treatment were carried out in the same manner as in Example 2-(a) except for using tert-butyl(tert-butoxycarbonyl{6-[(pyridin-3-ylsulfonyl)aminomethyl]pyridin-2-yl}amino)acetate (158 mg, 0.330 mmol) obtained in Reference Example 12-(d) in place of N-[4-(thiazol-2-yl)benzyl]pyridin-3-ylsulfonamide, and using 4-(pyridazin-4-yl)benzyl alcohol (60.2 mg, 0.323 mmol) obtained in Reference Example 13 in place of tert-butyl[tert-butoxycarbonyl(6-hydroxymethylpyridin-2-yl)amino]acetate to afford the title compound (152 mg) as a white foam. (Yield: 73%)

reactant | tert-butyl(tert-butoxycarbonyl{6-[(pyridin-3-ylsulfonyl)aminomethyl]pyridin-2-yl}amino)acetate | 0.330 mmol, 158 mg | C(C)(C)(C)OC(CN(C1=NC(=CC=C1)CNS(=O)(=O)C=1C=NC=CC1)C(=O)OC(C)(C)C)=O | C22H30N4O6S
reactant | N-[4-(thiazol-2-yl)benzyl]pyridin-3-ylsulfonamide | S1C(=NC=C1)C1=CC=C(CNS(=O)(=O)C=2C=NC=CC2)C=C1 | C15H13N3O2S2
reactant | 4-(pyridazin-4-yl)benzyl alcohol | 0.323 mmol, 60.2 mg | N1=NC=C(C=C1)C1=CC=C(CO)C=C1 | C11H10N2O
product | tert-butyl[tert-butoxycarbonyl(6-hydroxymethylpyridin-2-yl)amino]acetate | C(C)(C)(C)OC(CN(C1=NC(=CC=C1)CO)C(=O)OC(C)(C)C)=O | C17H26N2O5
